US09359362B2
(rac)-7-(4-Cyanophenyl)-2-(methoxymethyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon, 3-(methoxymethyl)-1H-1,2,4-triazole-5-amine (244 mg, 1.9 mmol) and 4-(2-cyano-3-oxobut-1-en-1-yl)benzonitrile (300 mg, 1.5 mmol, 0.8 eq.) were dissolved in DMF (3 ml), and solid sodium bicarbonate (803 mg, 9.6 mmol, 5 eq.) was added. The mixture was stirred at 55° C. for 12 h. The mixture was then filtered, and the DMF from the filtrate was distilled off under reduced pressure. The residue was acidified with 1 N hydrochloric acid and then purified by preparative HPLC (Kromasil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). The product was obtained as a solid (38.2 mg, 80% pure, 7% of theory).

reactant | 3-(methoxymethyl)-1H-1,2,4-triazole-5-amine | 1.9 mmol, 244 mg | COCC1=NNC(=N1)N | C4H8N4O
reactant | 4-(2-cyano-3-oxobut-1-en-1-yl)benzonitrile | 1.5 mmol, 300 mg, 0.8 eq. | C(#N)C(=CC1=CC=C(C#N)C=C1)C(C)=O | C12H8N2O
reactant | sodium bicarbonate | 9.6 mmol, 803 mg, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (rac)-7-(4-Cyanophenyl)-2-(methoxymethyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)COC)C)C#N | C16H14N6O
